US07947722B2
Reaction was carried out in the same manner as in Example 27, except that 2.5 g of N-Boc-glycine methyl ester was used in place of 1-dimethylethyl-(2R)-(2,6-dichlorophenyl)-5-oxo-3-((1′R)-phenylethyl)tetrahydro-1H-1-imidazolecarboxylate to obtain 3.3 g of 2-(N-Boc-amino)-3-hydroxy-5-phenylpentanoic acid methyl ester as a white solid (yield: 78%). Further, 11.0 g of 2-(N-Boc-amino)-3-hydroxy-5-phenylpentanoic acid methyl ester was mixed with a 6 M hydrochloric acid, and the mixture was refluxed for 4 hours. Thereafter, the solvent was removed in reduced pressure to obtain 2-amino-3-hydroxy-5-phenylpentanoic acid hydrochloride. The retention time of the respective isomers was confirmed using the product. Further, the pH of the aqueous solution of the hydrochloride salt was adjusted to 6 to 7 by a 30% aqueous solution of sodium hydroxide to obtain 346 mg of 2-amino-3-hydroxy-5-phenylpentanoic acid as a white solid (yield: 53%).

reactant | 2-(N-Boc-amino)-3-hydroxy-5-phenylpentanoic acid methyl ester | 11.0 g | COC(C(C(CCC1=CC=CC=C1)O)NC(=O)OC(C)(C)C)=O | C17H25NO5
reactant | hydrochloric acid | 6 M | Cl | ClH
product | 2-amino-3-hydroxy-5-phenylpentanoic acid hydrochloride | Cl.NC(C(=O)O)C(CCC1=CC=CC=C1)O | InChI=1S/C11H15NO3.ClH/c12-10(11(14)15)9(13)7-6-8-4-2-1-3-5-8;/h1-5,9-10,13H,6-7,12H2,(H,14,15);1H
